US04518226
5.58 g Of trans-4-pentylcyclohexylcarboxylic acid was heated with 20 ml of thionyl chloride under reflux conditions. After the reaction was completed, the excess of thionyl chloride was removed completely under reduced pressure and the product residue obtained was distilled under reduced pressure. Trans-4-pentylcyclohexylcarbonyl chloride having a boiling point of 103° to 105° C./0.5 mmHg was obtained.

reactant | trans-4-pentylcyclohexylcarboxylic acid | 5.58 g | C(CCCC)[C@@H]1CC[C@H](CC1)C(=O)O | C12H22O2
reactant | thionyl chloride | 20 ml | S(=O)(Cl)Cl | Cl2OS
product | Trans-4-pentylcyclohexylcarbonyl chloride | C(CCCC)[C@@H]1CC[C@H](CC1)C(=O)Cl | C12H21ClO
